US08426437B2
This compound is prepared according to synthesis 25, from 115 mg (0.35 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2), 147 μL (1.05 mmol) of triethylamine and 35 mg (0.42 mmol) of dimethylamine hydrochloride. After purification by chromatography on silica (eluent dichloromethane/methanol 95/5) then trituration in methanol, 30 mg (24%) of 8-dimethylsulfamoyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.35 mmol, 115 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | triethylamine | 1.05 mmol, 147 μL | C(C)N(CC)CC | C6H15N
reactant | dimethylamine hydrochloride | 0.42 mmol, 35 mg | Cl.CNC
product | 8-dimethylsulfamoyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 30 mg, 24% | CN(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)C.C(C)C(=O)[O-] | InChI=1S/C13H13N3O3S.C3H6O2/c1-16(2)20(18,19)8-3-4-11-10(7-8)9-5-6-14-12(9)13(17)15-11;1-2-3(4)5/h3-7,14H,1-2H3,(H,15,17);2H2,1H3,(H,4,5)/p-1
